US05580872
Step 2: 1-Ethyl-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride
To a solution of 171 mg (0.5 mmol) of ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate, from Step 1, in 4 mL of THF was added 4.0 mL of a 1.0N aqueous sodium hydroxide solution and the reaction mixture was heated, with stirring, at 75° C. for 4.5 hours. The reaction mixture was cooled to ambient temperature and adjusted to pH 2 with 5 mL of 1N aqueous hydrochloric acid solution. The aqueous solution was concentrated in vacuo to ~5 mL and the solid was collected by filtration and dried in vacuo to afford 120 mg (68% yield) of the title compound, m.p. 293°-294° C. (dec); MS DCI-NH3 : 316 (M-Cl)+ 90%, 272 ((M-Cl)-CO2H)+ base; IR (KBr): 3420 (OH), 1695 (C=O), 1640 (C=O) cm-1 ; 1H NMR (TFA) d 1.47 (t, 3H, J=7.5 Hz), 3.00 (q, 2H, J=7.5 Hz), 3.23 (s, 3H), 3.55 (dd, 2H, J=9 Hz), 4.12 (m, 4H), 4.65 (d, 2H, J=15 Hz), 7.40 (s, 1H), 7.67 (d, 1H, J=9 Hz), 8.18 (s, 1H), 9.20 (d, 1H, J=7.5 Hz). Analysis calculated for C17H22ClN3O3 : C, 56.59; H, 6.42; N, 11.64. Found: C, 56.86; H, 6.19; N, 11.60.

reactant | ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate | 0.5 mmol, 171 mg | C(C)C=1C=C(C(N2C=CC(=CC12)N1CCN(CC1)C)=O)C(=O)OCC | C19H25N3O3
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylic acid hydrochloride | 120 mg, 68% yield | Cl.C(C)C=1C=C(C(N2C=CC(=CC12)N1CCN(CC1)C)=O)C(=O)O | InChI=1S/C17H21N3O3.ClH/c1-3-12-10-14(17(22)23)16(21)20-5-4-13(11-15(12)20)19-8-6-18(2)7-9-19;/h4-5,10-11H,3,6-9H2,1-2H3,(H,22,23);1H
